US09238640B2
To a stirred solution of 2-amino-4,6-difluoro-benzamide (1.03 g, 6.00 mmol) and 2,6-dimethyl-pyridine-4-carbaldehyde (0.81 g, 6.00 mmol) in N,N-dimethyl acetamide (15 mL), sodium hydrogen sulfite (58.5 wt %, 1.31 g, 7.20 mmol), and p-toluenesulfonic acid monohydrate (0.11 g, 0.60 mmol) were added and the reaction mixture was stirred at 115° C. for 16 hours. The solvent was evaporated in vacuo, water was added, and the precipitated solid was filtered, to give 2-(2,6-dimethyl-pyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one as a yellow solid, which was used in the next step without further purification. Yield: 0.72 g (42%).

reactant | 2-amino-4,6-difluoro-benzamide | 6.00 mmol, 1.03 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | 2,6-dimethyl-pyridine-4-carbaldehyde | 6.00 mmol, 0.81 g | CC1=NC(=CC(=C1)C=O)C | C8H9NO
reactant | sodium hydrogen sulfite | 7.20 mmol, 1.31 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.60 mmol, 0.11 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethyl acetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2,6-dimethyl-pyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C15H11F2N3O
